US09085583B2
To a solution of tert-butyl 2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (5.0 g, 21.53 mmol) in CH3CN (50 mL) was added Cs2CO3 (21.0 g, 64.58 mmol), potassium iodide (3.57 g, 21.53 mmol). The mixture was stirred at 27° C. for 30 minutes. Then 3-chlorobutan-2-one (2.75 g, 25.83 mmol) was added and the mixture was stirred at 70° C. for 12 hours. The mixture was filtered and the filtrate was concentrated. The residue was purified by column (Elute: Petroleum ether:Ethyl acetate=50:1) to give tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate as a yellow-green oil. (3.23 g, yield 50%) LCMS (M+H+) m/z: calcd 303.37. found 302.9. 1H NMR (400 MHz, CDCl3): ä 8.32-8.30 (m, 1H), 8.25-8.23 (m, 1H), 7.17-7.14 (m, 1H), 5.50-5.44 (m, 1H), 2.71 (s, 3H), 1.96 (s, 3H), 1.65-1.67 (d, 3H), 1.64 (s, 9H).

reactant | tert-butyl 2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 21.53 mmol, 5.0 g | CC1=C(C=2C(=NC=CC2)N1)C(=O)OC(C)(C)C | C13H16N2O2
reactant | Cs2CO3 | 64.58 mmol, 21.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | potassium iodide | 21.53 mmol, 3.57 g | [I-].[K+]
reactant | 3-chlorobutan-2-one | 25.83 mmol, 2.75 g | ClC(C(C)=O)C | C4H7ClO
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | yield 50% | CC1=C(C=2C(=NC=CC2)N1C(C)C(C)=O)C(=O)OC(C)(C)C | C17H22N2O3
